US04772600
2-(4-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under a nitrogen atmosphere, oxalyl chloride (2.41 g, 0.0190 mole) was added dropwise to a stirred suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.28 g, 0.0184 mole) in anhydrous dimethylformamide (70 ml). The resulting solution was stirred at room temperature for 3 hrs. and was then added dropwise to a stirred and chilled (15°-20° C.) solution of 3-aminopyridine (1.79 g, 0.0190 mole), triethylamine (1.92 g, 0.0190 mole) and dimethylformamide (30 ml). The reaction mixture was stirred at room temperature overnight and then poured into 300 ml of water. The mixture was filtered. The filter cake was suspended between methylene chloride (200 ml) and 5% sodium hydroxide (100 ml) and the methylene chloride was separated. The aqueous portion was extracted with methylene chloride (100 ml). The combined methylene chloride layers were washed with 5% sodium hydroxide (2×50 ml), water (50 ml), dried over sodium sulfate, and concentrated. The residue (4.3 g, 66%) was twice recrystallized from isopropyl alcohol-isopropyl ether to give 3.2 g of a white granular solid, mp 217°-218° C.

reactant | oxalyl chloride | 0.0190 mole, 2.41 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0184 mole, 5.28 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 3-aminopyridine | 0.0190 mole, 1.79 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 0.0190 mole, 1.92 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 3.2 g | O.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1C=NC=CC1 | InChI=1S/C19H14ClN5O.H2O/c20-14-7-5-13(6-8-14)18-24-16-4-2-10-22-19(16)25(18)12-17(26)23-15-3-1-9-21-11-15;/h1-11H,12H2,(H,23,26);1H2
